US07135486B1
3,5-Dicyano-4-(3,5-dichloro-4-hydroxyphenyl)-2-carbamoylmethyl-6-amino-pyridine
337.2 mg (1 mmol) of 2-amino-4-(3,5-dichloro-4-hydroxyphenyl)-6-sulfanyl-3,5-pyridinedicarbonitrile and 207 mg (1.5 mmol) of bromoacetamide are dissolved in 4 ml of DMF, 336 mg (4 mmol) of NaHCO3 are added and the mixture is stirred at RT for 8 hours. The mixture is diluted with water and washed with ethyl acetate. The aqueous phase is acidified with 1N HCl and the resulting crystals are filtered off with suction and dried.

reactant | 2-amino-4-(3,5-dichloro-4-hydroxyphenyl)-6-sulfanyl-3,5-pyridinedicarbonitrile | 1 mmol, 337.2 mg | NC1=NC(=C(C(=C1C#N)C1=CC(=C(C(=C1)Cl)O)Cl)C#N)S | C13H6Cl2N4OS
reactant | bromoacetamide | 1.5 mmol, 207 mg | BrCC(=O)N | C2H4BrNO
reactant | NaHCO3 | 4 mmol, 336 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3,5-Dicyano-4-(3,5-dichloro-4-hydroxyphenyl)-2-carbamoylmethyl-6-amino-pyridine | C(#N)C=1C(=NC(=C(C1C1=CC(=C(C(=C1)Cl)O)Cl)C#N)N)CC(N)=O | C15H9Cl2N5O2
